US04154850
n-1-(4-Ethoxycarbonylphenoxy-7-(4-chlorophenoxy)-heptane
Sodium (2.5 g., 0.11 M) was dissolved in absolute ethanol (50 ml) and ethyl 4-hydroxybenzoate (16.6 g., 0.10 M) in ethanol (50 ml) was added at room temperature. The mixture was stirred at room temperature for 15 min, 1-bromo-7-(4-chlorophenoxy)-heptane (0.10 M) in ethanol (50 ml) was added in one portion and the mixture was boiled under reflux with stirring for 24 hours. The hot solution was filtered to remove sodium bromide, the ethanol removed under vacuum, the product dissolved in dichloromethane (100 ml) and washed with 5% sodium hydroxide solution (2×100 ml) and water (2×100 ml). The dichloromethane solution was dried (MgSO4), filtered, evaporated and the product purified by crystallisation, from ethanol m.p. 70°-71°.

reactant | Sodium | 0.11 M, 2.5 g | [Na] | Na
reactant | ethyl 4-hydroxybenzoate | 0.10 M, 16.6 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1-bromo-7-(4-chlorophenoxy)-heptane | 0.10 M | BrCCCCCCCOC1=CC=C(C=C1)Cl | C13H18BrClO
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Ethoxycarbonylphenoxy-7-(4-chlorophenoxy)-heptane | C(C)OC(=O)C1=CC=C(OCCCCCCCOC2=CC=C(C=C2)Cl)C=C1 | C22H27ClO4
